US08022205B2
5-[2-Morpholin-4-yl-7-(4-morpholin-4-ylmethyl-phenyl)-6,7-dihydro-5H-pyrrolo[2,3-d]pyrimidin-4-yl]-pyrimidin-2-ylamine (D-126)
Using 4-(4-{2-[bis-(4-methoxy-benzyl)-amino]-pyrimidin-5-yl}-2-morpholin-4-yl-5,6-dihydro-pyrrolo[2,3-d]pyrimidin-7-yl)-benzaldehyde (70 mg) and morpholine (14 μl) instead of 1-methylpiperazine, in the same manner as Step B in Example 1-D-26, a crude product of bis-(4-methoxy-benzyl)-{5-[2-morpholin-4-yl-7-(4-morpholin-4-ylmethyl-phenyl)-6,7-dihydro-5H-pyrrolo[2,3-d]pyrimidin-4-yl]-pyrimidin-2-yl}-amine was obtained, and then the PMB groups were removed according to the above Deprotection method 3, to obtain the desired compound (D-126) as a pale brown powder (26 mg, 50%).

reactant | 4-(4-{2-[bis-(4-methoxy-benzyl)-amino]-pyrimidin-5-yl}-2-morpholin-4-yl-5,6-dihydro-pyrrolo[2,3-d]pyrimidin-7-yl)-benzaldehyde | 70 mg | COC1=CC=C(CN(C2=NC=C(C=N2)C=2C3=C(N=C(N2)N2CCOCC2)N(CC3)C3=CC=C(C=O)C=C3)CC3=CC=C(C=C3)OC)C=C1 | C37H37N7O4
reactant | morpholine | 14 μl | N1CCOCC1 | C4H9NO
reactant | bis-(4-methoxy-benzyl)-{5-[2-morpholin-4-yl-7-(4-morpholin-4-ylmethyl-phenyl)-6,7-dihydro-5H-pyrrolo[2,3-d]pyrimidin-4-yl]-pyrimidin-2-yl}-amine | COC1=CC=C(CN(C2=NC=C(C=N2)C=2C3=C(N=C(N2)N2CCOCC2)N(CC3)C3=CC=C(C=C3)CN3CCOCC3)CC3=CC=C(C=C3)OC)C=C1 | C41H46N8O4
product | 5-[2-Morpholin-4-yl-7-(4-morpholin-4-ylmethyl-phenyl)-6,7-dihydro-5H-pyrrolo[2,3-d]pyrimidin-4-yl]-pyrimidin-2-ylamine | N1(CCOCC1)C=1N=C(C2=C(N1)N(CC2)C2=CC=C(C=C2)CN2CCOCC2)C=2C=NC(=NC2)N | C25H30N8O2
